US07045520B2
b. 5-(tert-Butyl)-2-methoxybenzoic acid methyl ester (8, Scheme 2).
To 6.0 g of 5-(tert-butyl)-2-hydroxybenzoic acid methyl ester in a round bottom flask was added tetrabutyl-ammoniumhydroxide 40% solution (7.45 g, 1 eq). The resulting solution was stirred at room temperature for 2 hr. All water was evaporated under reduced pressure and then in vacuo. To remove trace water, the salt was dried in a vacuum oven overnight and yielded 12.9 g (99%). To a solution of 12.9 g of tetra-butylammonium salt in 50 ml dry THF was slowly added methyliodide (3.61 mL, 2 eq). The resulting solution was stirred at room temperature for 2 hr. After the reaction was completed, the product was filtered out using ammonium iodide salt and washed with ethylacetate twice. The pH was adjusted to pH=2–3 using 1M HCl solution. This organic layer was collected by extraction with ethylacetate and water three times. The organic layer was dried over anhydrous magnesium sulfate (MgSO4). The organic layer was evaporated and the residue was purified by column chromatography (ethylacetate:hexane=1:5) (yield: 3.8 g, 60.0%) 1H NMR (CDCl3, 300 MHz): δ 1.30 (s, 9H), 3.86 (s, 3H), 3.90 (s, 3H), 6.90 (d, J=10.5 Hz, 1H), 7.47 (d, J=9.0 Hz, 1H), 7.82 (s, 1H).

reactant | 5-(tert-butyl)-2-hydroxybenzoic acid methyl ester | 6.0 g | COC(C1=C(C=CC(=C1)C(C)(C)C)O)=O | C12H16O3
reactant | tetrabutyl-ammoniumhydroxide | [OH-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | tetra-butylammonium | 12.9 g | C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | methyliodide | 3.61 mL, 2 eq | CI | CH3I
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | 5-(tert-Butyl)-2-methoxybenzoic acid methyl ester | COC(C1=C(C=CC(=C1)C(C)(C)C)OC)=O | C13H18O3
